US04216218
A suspension of 9.56 g of cis-1-methyl-3-phenyl-4-piperidinol, Example 22a above, in 100 ml of benzene is added to a suspension of 1.32 g of sodium hydride in 50 ml of dry benzene. The mixture is heated to reflux, and 50 ml of dry DMF are added in portions over a two hour period. The solution is cooled to 13° C. and a solution of 12.31 g of p-fluorobenzotrifluoride in 50 ml of benzene is added all at once. A slight rise in temperature occurs. After stirring at room temperature under nitrogen for 48 hours, the reaction mixture is poured into a mixture of ether and aqueous NaCl solution. The aqueous phase is extracted with ether, and the combined ether extracts are dried over anhydrous Na2SO4 and concentrated in vacuo to a mixture of an oil and a solid. This material is dissolved in 250 ml of boiling hexane and gravity-filtered to remove insoluble material. The cool filtrate is re-filtered to remove additional impurities, and then is reduced in volume. Scratching causes crystallization of a solid. An oil from the filtrate is separated out by dissolving the oil in dichloromethane and washing with 2 N HCl solution. The dichloromethane phase is washed with 20% aqueous NaOH solution (to liberate the free base of the product), dried over anhydrous Na2SO4, and concentrated in vacuo to an oil (free base). This material is dissolved in ether, filtered, and is then added to a stirred solution of ether saturated with dry HCl gas. The solvent is removed in vacuo and trituration of the residue with an ether causes solidification to occur to yield cis-1-methyl-3-phenyl-4-(4-trifluoromethylphenoxy)piperidine hydrochloride. Recrystallization from toluene affords solid product, mp s 175°, 177.5°-179.5° C.

reactant | cis-1-methyl-3-phenyl-4-piperidinol | 9.56 g | CN1C[C@H]([C@H](CC1)O)C1=CC=CC=C1 | C12H17NO
reactant | sodium hydride | 1.32 g | [H-].[Na+]
reactant | p-fluorobenzotrifluoride | 12.31 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | NaCl | [Na+].[Cl-]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | cis-1-methyl-3-phenyl-4-(4-trifluoromethylphenoxy)piperidine hydrochloride | Cl.CN1C[C@H]([C@H](CC1)OC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | InChI=1S/C19H20F3NO.ClH/c1-23-12-11-18(17(13-23)14-5-3-2-4-6-14)24-16-9-7-15(8-10-16)19(20,21)22;/h2-10,17-18H,11-13H2,1H3;1H/t17-,18-;/m0./s1
